US06319924B1
g) 7-(3,6-Dihydro-2H-pyridin-1-yl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine
Sodium hydride (60% dispersion in oil, 23 mg, 0.58 mmol) was added to a solution of (2-methyl-2H-1,2,4-triazol-3-yl)methanol (EP-A-421210) (57 mg, 0.53 mmol) in dry DMF (2 ml) at room temperature under nitrogen. After 1 hour at room temperature a solution of 6-chloro-7-(3,6-dihydro-2H-pyridin-1-yl)-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine (150 mg) in dry DMF (2 ml) was added via syringe. The mixture was stirred at room temperature for 16 hours. Water (20 ml) was added and the solid filtered and dried in vacuo. Recrystallisation from ethyl acetate/petroleum ether afforded the title pyridaziite as a white solid (131 mg, 70%). 1H NMR (250 MHz, CDCl3) 8.29 (2H, m), 7.94 (1H, s), 7.52 (3H, m), 7.23 (1H, s), 5.91 (1H, m), 5.80 (1H, m), 5.63 (2H, s), 3.96 (3H, s), 3.71 (2H, m), 3.40 (2H, m), 2.23 (2H, m). MS (ES+) 389 [MH]+.

reactant | Sodium hydride | 0.58 mmol, 23 mg | [H-].[Na+]
reactant | (2-methyl-2H-1,2,4-triazol-3-yl)methanol | 0.53 mmol, 57 mg | CN1N=CN=C1CO | C4H7N3O
reactant | 6-chloro-7-(3,6-dihydro-2H-pyridin-1-yl)-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine | 150 mg | ClC=1C(=CC=2N(N1)C(=NN2)C2=CC=CC=C2)N2CCC=CC2 | C16H14ClN5
reactant | Water | 20 ml | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 7-(3,6-Dihydro-2H-pyridin-1-yl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine | 131 mg, 70% | N1(CCC=CC1)C1=CC=2N(N=C1OCC=1N(N=CN1)C)C(=NN2)C2=CC=CC=C2 | C20H20N8O
